US09035073B2
3-(2,3-difluorophenyl)-1-ethyl-3-methoxypyrrolidine
A mixture of 3-(2,3-difluorophenyl)-3-methoxypyrrolidine (0.4 g, 1.87 mmol), acetonitrile (5 ml), sodium carbonate (0.52 g, 3.74 mmol) and iodoethane (0.28 g, 1.87 mmol) was heated at 110° C. in a sealed tube under microwave irradiation for 10 minutes. Water (30 ml) was added and the aqueous phase was extracted with ethyl acetate (2×50 ml), the combined organic phases was dried (MgsO4) and evaporated to give the crude product (0.45 g). Purification by flash chromatography (ethyl acetate/methanol 1:1) and by HPLC on waters OBD C18, 5 μm (MeOH/33 mM NH3, 20:80 to 50:50) gave the title compound (0.12 g, 27%). The amine was converted to the fumaric acid salt and recrystallized from methanol/diethyl ether/diisopropyl ether: M.p. 94-98° C. MS m/z (rel. intensity, 70 eV) 241 (M+, 5), 226 (54), 211 (27), 141 (50), 71 (bp).

reactant | 3-(2,3-difluorophenyl)-3-methoxypyrrolidine | 1.87 mmol, 0.4 g | FC1=C(C=CC=C1F)C1(CNCC1)OC | C11H13F2NO
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
reactant | sodium carbonate | 3.74 mmol, 0.52 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | iodoethane | 1.87 mmol, 0.28 g | ICC | C2H5I
solvent | Water | 30 ml | O | H2O
product | 3-(2,3-difluorophenyl)-1-ethyl-3-methoxypyrrolidine | 0.12 g, 27% | FC1=C(C=CC=C1F)C1(CN(CC1)CC)OC | C13H17F2NO
